US07300943B2
5-Bromo-1-tert-butyl-3-cyclobutyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one
To a stirring solution of 1-tert-butyl-3-cyclobutyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one (1.0 g, 4.1 mmol) in AcOH (10 mL) was added bromine (236 uL, 4.6 mmol) dropwise. After 15 min, the resulting solid was collected and washed with hexanes. The solution was diluted with EtOAc and washed with a saturated aqueous solution of NaHCO3. The organic layer was dried over MgSO4 and concentrated under reduced pressure. Purification of the resulting material was accomplished by flash chromatography, using a Biotage® column, eluting with a gradient of 10%, 20% EtOAc/hexanes. The product-containing fractions were collected and concentrated to give the title compound (220 mg, 16% yield) as a tan solid. LRMS m/z (APCl) 322, 324 (M−1); 500 MHz 1H NMR (CDCl3) δ 12.5 (bs, 1H), 8.09 (s, 1H), 3.66 (dddd, J=8.7, 8.7, 8.7, 8.7 Hz, 1H), 2.45-2.34 (m, 4H), 2.15-1.92 (m, 2H), 1.76 (s, 9H).

reactant | 1-tert-butyl-3-cyclobutyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one | 4.1 mmol, 1.0 g | C(C)(C)(C)N1N=C(C2=C1NC(C=C2)=O)C2CCC2 | C14H19N3O
reactant | bromine | 4.6 mmol, 236 uL | BrBr | Br2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 5-Bromo-1-tert-butyl-3-cyclobutyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one | 220 mg, 16% yield | BrC1=CC2=C(NC1=O)N(N=C2C2CCC2)C(C)(C)C | C14H18BrN3O
